* source ELEC2_PROJECT
Q_Q4         N07746 N07347 N065322 Q2N3120
Q_Q2         N08581 N09682 N065322 Q2N3115
Q_Q11         N07898 N07898 N08817 Q2N3120
Q_Q3         N07390 N07347 N065662 Q2N3120
Q_Q1         N08581 N09721 N065662 Q2N3115
V_V4         0 N09682 DC 0Vdc AC 1Vac 
Q_Q5         N07390 N07390 N066002 Q2N3115
R_R1         N08749 N066342  800  
Q_Q6         N07746 N07390 N066342 Q2N3115
Q_Q7         N08581 N08581 N08817 Q2N3120
R_R2         N08749 N066002  800  
V_VCC         N08817 0 15Vdc
R_R3         N08749 N064982  8k  
V_VEE         0 N08749 15Vdc
R_R4         N07789 N07898  75k  
Q_Q8         N07347 N08581 N08817 Q2N3120
Q_Q10         N07789 N07789 N08749 Q2N3115
R_R6         0 N07746  1000k  
Q_Q9         N07347 N07789 N064982 Q2N3115
V_V3         N09721 0 DC 0Vdc AC 1Vac 
